US05332729
10 g of 4-acetylbenzoic acid ethyl ester and 40 g of ammonium acetate are dissolved in 210 ml of absolute methanol, and 3.63 g of sodium cyanoborohydride are added. The reaction solution is stirred for 24 hours at room temperature, cooled to 4° and adjusted to a pH of 1 by the addition of concentrated hydrochloric acid. The methanol is removed under reduced pressure and the suspension that remains is filtered. The aqueous filtrate is washed with diethyl ether, adjusted to a pH of 10 at 4° by the addition of solid sodium hydroxide and extracted with diethyl ether. Drying is carried out over sodium sulfate and is followed by concentration to dryness by evaporation under reduced pressure, and the oil that remains is distilled under reduced pressure to give 1-(4-carboxyphenyl)ethylamine having a boiling point of 130°-140° (6×10-2 mbar).

reactant | 4-acetylbenzoic acid ethyl ester | 10 g | C(C)OC(C1=CC=C(C=C1)C(C)=O)=O | C11H12O3
reactant | ammonium acetate | 40 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 3.63 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 210 ml | CO | CH4O
product | 1-(4-carboxyphenyl)ethylamine | C(=O)(O)C1=CC=C(C=C1)C(C)N | C9H11NO2
